US07932272B2
Thieno[2,3-b]pyridine-5-carboxylic acid methyl ester
6-Trifluoromethanesulfonyloxy-thieno[2,3-b]pyridine-5-carboxylic acid methyl ester described in Preparation Example T-9 (10 mg, 29 μmol), tetrakis(triphenylphosphine)palladium(0) (3.4 mg, 2.9 μmol), formic acid (1.7 μl, 44 μmol) and N,N-diisopropylethylamine (15 μl, 87 μmol) were dissolved in 1-methyl-2-pyrrolidone (0.5 mL), and the mixture was stirred for 1.5 hours at 100° C. The reaction mixture was cooled to room temperature, water and ethyl acetate were added, the organic layer was partitioned, the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=5:1), and the title compound (7 mg, quantitatively) was obtained as a white solid.

reactant | 6-Trifluoromethanesulfonyloxy-thieno[2,3-b]pyridine-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C(=NC1OS(=O)(=O)C(F)(F)F)SC=C2 | C10H6F3NO5S2
reactant | formic acid | 44 μmol, 1.7 μl | C(=O)O | CH2O2
reactant | N,N-diisopropylethylamine | 87 μmol, 15 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
solvent | 1-methyl-2-pyrrolidone | 0.5 mL | CN1C(CCC1)=O | C5H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.9 μmol, 3.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Thieno[2,3-b]pyridine-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C(=NC1)SC=C2 | C9H7NO2S
